US07138533B2
8-(3-{1-[2-(2-Chlorophenyl)ethyl]-4-piperidinyl}propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
Using 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (600 mg and 2-(2-chlorophenyl)ethyl methanesulfonate (475 mg) according to the same method as that of Example 81, the title compound (303 mg) was obtained as colorless crystals having a melting point of 207 to 210° C.

reactant | 8-[3-(4-piperidinyl)propanoyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | 2-(2-chlorophenyl)ethyl methanesulfonate | 475 mg | CS(=O)(=O)OCCC1=C(C=CC=C1)Cl | C9H11ClO3S
product | 8-(3-{1-[2-(2-Chlorophenyl)ethyl]-4-piperidinyl}propanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | 303 mg | Cl.ClC1=C(C=CC=C1)CCN1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C27H31ClN2O2.ClH/c28-24-4-2-1-3-20(24)11-15-29-13-9-19(10-14-29)5-7-25(31)23-17-21-6-8-26(32)30-16-12-22(18-23)27(21)30;/h1-4,17-19H,5-16H2;1H
